US08067408B2
A mixture of 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid (762 mg, 1.69 mmol), {[3-bromo-5-(methyloxy)phenyl]methyl}amine (529 mg, 1.86 mmol), HBTU (769 mg, 2.03 mmol) and Et3N (0.47 mL, 3.38 mmol) in DCM was stirred at room temperature overnight. The reaction was quenched with saturated NaHCO3 and extracted with DCM twice. The combined organic layers were then washed with water followed by a brine wash. The organic layer was then concentrated under vacuum to give a crude residue. It was then purified using CombiFlash chromatography eluting with 0 to 10% methanol in DCM to obtain N-{[3-bromo-5-(methyloxy)phenyl]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide as a solid (1.05 g, 96%). LC-MS m/z 649 (M+H)+.

reactant | 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic acid | 1.69 mmol, 762 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
reactant | {[3-bromo-5-(methyloxy)phenyl]methyl}amine | 1.86 mmol, 529 mg | BrC=1C=C(C=C(C1)OC)CN | C8H10BrNO
reactant | HBTU | 2.03 mmol, 769 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 3.38 mmol, 0.47 mL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[3-bromo-5-(methyloxy)phenyl]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 1.05 g, 96% | BrC=1C=C(C=C(C1)OC)CN(C(=O)C1=CC(=CC=C1)C(=O)N)CC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C32H37BrN6O4
